US07977481B2
Benzoic acid (5.2 mg, 0.042 mmol), [4-(5-aminothiophen-2-yl)-pyrimidin-2-yl]-m-tolyl-amine (10 mg, 0.035 mmol), DMAP (4.2 mg, 0.035 mmol) and HATU (15.9 mg, 0.042 mmol) were combined in 400 uL DMF and the solution was heated on a hot plate in a capped vial at 70° C. After 16 hours, the mixture was diluted with DMSO and prep purified to afford N-[5-(2-m-tolylamino-pyrimidin-4-yl)-thiophene-2-yl]-benzamide (3.0 mg, 22%). 1H NMR (500 MHz, DMSO-d6) δ 1.29 (s, 3H), 6.70 (d, J=7.5 Hz, 1H), 6.93 (d, J=4 Hz, 1H), 7.10 (t, J=8 Hz, 1H), 7.16 (d, J=5.5 Hz. 1H), 7.47 (d, J=7.5 Hz, 1H), 7.51 (m, 2H), 7.58 (m, 1H), 7.74 (d, J=4 Hz, 1H), 7.78 (s, 1H), 7.95 (m, 2H), 8.31 (d, J=5.5 Hz, 1H), 9.42 (s, 1H). MS: m/z 387 (M+H+).

reactant | Benzoic acid | 0.042 mmol, 5.2 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | [4-(5-aminothiophen-2-yl)-pyrimidin-2-yl]-m-tolyl-amine | 0.035 mmol, 10 mg | NC1=CC=C(S1)C1=NC(=NC=C1)NC=1C=C(C=CC1)C | C15H14N4S
reactant | HATU | 0.042 mmol, 15.9 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
catalyst | DMAP | 0.035 mmol, 4.2 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 400 uL | CN(C)C=O | C3H7NO
solvent | DMSO | CS(=O)C | C2H6OS
product | N-[5-(2-m-tolylamino-pyrimidin-4-yl)-thiophene-2-yl]-benzamide | 3.0 mg, 22% | C1(=CC(=CC=C1)NC1=NC=CC(=N1)C1=CC=C(S1)NC(C1=CC=CC=C1)=O)C | C22H18N4OS
